US08633189B2
To a solution of 4-chloro-2-cyclopentyl-5-nitrophenyl methyl carbonate (870 mg, 2.90 mmol) and NiCl2 (376 mg, 2.90 mmol) in methanol (10 mL) at 0° C. was added NaBH4 (330 mg, 8.71 mmol) portion-wise. After 10 min the reaction was quenched with NaHCO3 and diluted with ethyl acetate. The reaction mixture was filtered through a pad of Celite and the layers were separated. The aqueous layer was re-extracted with ethyl acetate (3×100 mL) and the combined organic extracts dried over MgSO4. The solution was filtered and concentrated in vacuo to provide 5-amino-4-chloro-2-cyclopentylphenyl methyl carbonate which was used for the next step without further purification (400 mg, 51% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.11 (s, 1H), 6.57 (d, J=11.4 Hz, 1H), 5.38 (s, 1H), 3.85-3.80 (m, 3H), 2.89-2.80 (m, 2H), 1.88-1.81 (m, 2H), 1.75-1.56 (m, 2H), 1.52 (s, 2H), 1.46-1.37 (m, 2H).

reactant | 4-chloro-2-cyclopentyl-5-nitrophenyl methyl carbonate | 2.90 mmol, 870 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)C1CCCC1)(OC)=O | C13H14ClNO5
reactant | NaBH4 | 8.71 mmol, 330 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | NiCl2 | 2.90 mmol, 376 mg | Cl[Ni]Cl
product | 5-amino-4-chloro-2-cyclopentylphenyl methyl carbonate | 51% yield | C(OC1=C(C=C(C(=C1)N)Cl)C1CCCC1)(OC)=O | C13H16ClNO3
